US07576094B2
A mixture of 7-isopropyl-5-methyl-4-oxospiro[chroman-2,1′-cyclobutane]-6-yl acetate (1.0 g) and methoxyamine hydrochloride (1.0 g) in methanol (3 mL) was microwave heated at 60° C. for 3 min., 100° C. for 5 min., and 120° C. for 10 min. Two runs (total 2 g, 6.62 mmol) were combined. The solution was diluted with ethyl acetate and washed with water and brine. The crude product obtained (6.62 mmol) was dissolved in tetrahydrofuran (5 mL) and borane-pyridine complex (4 mL) at 0° C. followed by hydrogen chloride (8 mL, 4.0 M solution in dioxane) were added for 50 minutes. The solution was allowed to warm to room temperature slowly. After 48 hours, ethyl acetate was added. The solution was washed with saturated sodium bicarbonate water solution, water and brine. Evaporation and chromatography (silica gel, hexane-ethyl acetate 1% to 8%) gave 573 mg of 7-isopropyl-4-(methoxyamino)-5-methylspiro[chroman-2,1′-cyclobutan]-6-ol. 1H-NMR (300 MHz, CDCl3) δ=6.63 (s, 1H), 4.54 (s, 1H), 5.35 (s, 1H), 4.30-4.25 (m, 1H), 3.65 (s, 3H), 3.15-3.10 (m, 1H), 2.70-2.60 (m, 2H), 2.40-2.10 (m, 6H), 2.10-1.75 (m, 3H), 1.22 (d, J=6.7 Hz, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=148.4, 144.9, 136.1, 123.0, 115.2,112.4, 76.7, 61.9, 52.6, 35.7, 34.4, 32.5, 27.3, 22.7, 22.6, 13.7, 11.5 ppm. MS (m/z)=245 (100, M+H+−18).

reactant | 7-isopropyl-5-methyl-4-oxospiro[chroman-2,1′-cyclobutane]-6-yl acetate | 1.0 g | C(C)(=O)OC=1C(=C2C(CC3(CCC3)OC2=CC1C(C)C)=O)C | C18H22O4
reactant | methoxyamine hydrochloride | 1.0 g | Cl.CON
reactant | hydrogen chloride | 4.0 M, 8 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 7-isopropyl-4-(methoxyamino)-5-methylspiro[chroman-2,1′-cyclobutan]-6-ol | 573 mg | C(C)(C)C1=C(C(=C2C(CC3(CCC3)OC2=C1)NOC)C)O | C17H25NO3
